US06225311B1
To a 0° suspension of 14.92 g (0.10 mmol) of D-penicillamine in 300 mL of dichloroethane and 2.0 mL of DMF was added 22.4 mL of DBU followed by 19.0 mL of trimethylsilyl chloride. The ice bath was removed and the reaction was stirred for 3h, after which an additional 29.9 mL of DBU was added. The reaction was stirred overnight at room temperature and then 10 mL of methanol was added and the reaction was stirred for 1h. The resulting white precipitate was filtered off, washed with 10 mL of methanol and dried in vacuo to provide 16 g of (3 S)-2,2-dimethyl-3-thiomorpholine carboxylic acid as a white solid.

reactant | D-penicillamine | 0.10 mmol, 14.92 g | N[C@H](C(C)(C)S)C(=O)O | C5H11NO2S
reactant | DBU | 22.4 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | trimethylsilyl chloride | 19.0 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | dichloroethane | 300 mL | ClC(C)Cl | C2H4Cl2
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | (3 S)-2,2-dimethyl-3-thiomorpholine carboxylic acid | 16 g | CC1([C@@H](NCCS1)C(=O)O)C | C7H13NO2S
